US06162818
Phosphoric acid (35 mL of 86%) is added to a solution of 3-chloro-4-nitroindole (1.27 g, 6.46 mmol) in 2-methoxyethanol (50 mL) at 100° C. The resulting brown colored solution is stirred at 95° C. for 3.5 hours. The reaction is cooled to room temperature and then poured into 500 mL of water. The aqueous layer is extracted three times with ethyl acetate. The ethyl acetate layer is dried over magnesium sulfate, filtered and the solvents removed by rotary evaporation. The crude material is purified via silica gel column chromatography using 2% methanol/methylene chloride as the eluent. The product containing fractions are combined and the solvents removed by rotary evaporation to yield 0.90 g of slightly impure 4-nitrooxindole as an orange solid.

reactant | Phosphoric acid | 35 mL | P(O)(O)(O)=O | H3O4P
reactant | 3-chloro-4-nitroindole | 6.46 mmol, 1.27 g | ClC1=CNC2=CC=CC(=C12)[N+](=O)[O-] | C8H5ClN2O2
reactant | water | 500 mL | O | H2O
solvent | 2-methoxyethanol | 50 mL | COCCO | C3H8O2
product | 4-nitrooxindole | [N+](=O)([O-])C1=C2CC(NC2=CC=C1)=O | C8H6N2O3
